US07030128B2
To the degassed solution of 3-tributylstannyl-7-trifluoromethyl-imidazo[1,2-α]pyrimidine was added 2,6-dibromopyridine (1.8 g, 7.5 mmol) and tetrakis(triphenylphosphine)palladium(0) (218 mg, 0.18 mmol) and the mixture heated at reflux for 3 h. The crude reaction was adsorbed onto silica and purified by chromatography on silica gel eluting with isohexane on a gradient of ethyl acetate (20-60%) to give a yellow solid. Crystallisation from ethyl acetate/isohexane afforded 3-(6-bromopyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine (702 mg) as a white solid: δH (400 MHz, DMSO) 7.64 (1H, d, J 9), 7.83 (1H, d, J 8), 7.93 (1H, dd, J 9 and 9), 8.20 (1H, d, J 9), 8.92 (1H, s), 10.18 (1H, d, J 9); m/z (ES+) 343, 345 (M++H).

reactant | 3-tributylstannyl-7-trifluoromethyl-imidazo[1,2-α]pyrimidine | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
reactant | 2,6-dibromopyridine | 7.5 mmol, 1.8 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.18 mmol, 218 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(6-bromopyridin-2-yl)-7-trifluoromethylimidazo[1,2-α]pyrimidine | 702 mg | BrC1=CC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C12H6BrF3N4
